Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Levaquin / Flagyl
 
Attending: ___.
 
Chief Complaint:
vertical diplopia
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
___ is a ___ yrs. old right - handed- female with
hypercholesterolemia, pre-diabetes, hypertension, intraductal
papillary mucinous neoplasm (stable, followed by GI here), and
thyroid nodules (recent TSH stable), here for evaluation of
vertical binocular diplopia which is intermittent, and going on
for past ___ year though has been worse over past 1 week. MRI
obtained yesterday by PCP showed chronic right pons stroke, her
Ophthalmologist (Dr. ___, Mass Eye and Ear) saw this
MRI report today and referred her to BI ED for stroke work up. 

Patient reports that her diplopia first happened in ___, i.e. ___
years ago and she was seen by Dr. ___. On
review of Dr. ___: Patient was having intermittent
vertical diplopia. "In late ___, after knitting for
long time, the patient looked up at her TV and noticed vertical
diplopia on the periphery. She had a recurrent event on ___
while taking the dishes out. She went to ___
where she had head CT followed by brain MRI and MRA of head and
neck that were all normal. The patient also had a transthoracic
echocardiogram which was normal and there was no evidence for
PFO." "She has bilateral chronic ptosis which is familial. She
has had intermittent dysphagia with dry food such as bread but
she had normal upper GI." 
Dr. ___ was concerned about Myesthenia and sent AChR antibody
and MuSK antibody testing which was negative. 

Diplopia improved for a few years but then returned ___ year ago
and now occurs almost daily. She had repeat Ophthalmology
evaluation, had cataract surgery in ___ and in ___ but 
diplopia
persisted.

Her vertical diplopia is worse when looking to left. She clearly
self-reports that diplopia resolves when she closes either eye.
The diplopia is intermittent and lasts a few seconds when she
changes her direction, for example when looking up or down 
things
appear shaky till they settle down. She denies any diurnal
pattern and reports it can happen at any time in the day.

For approximately 1 month she has also had intermittent 
dizziness
described as "feeling off balance" but no room-spinning vertigo,
this happens approx. 4 out of 7 days per week, and typically
resolves by noon each day on its own. Patient saw her PCP and 
was
told she had mild orthostatic hypotension therefore should
increase her fluids. She was also given diagnosis of BPPV and
Epley maneuvers were recommended. Plan was made to also refer 
her
to Neurology but appointment was available for ___ therefore
MRI brain was ordered by PCP. 
Patient also saw her optometrist who recommended ophthalmology
evaluation due to vertical diplopia. MRI obtained yesterday by
PCP showed chronic right pons stroke, her Ophthalmologist (Dr.
___, Mass Eye and Ear) saw this MRI report today and
referred her to BI ED for stroke work up. 

On review of systems, patient denies headache or brainstem aura,
but reports that in the past she has had "spirals in her vision"
lasting 20 min and was diagnosed with migraine. These are no
longer occurring. 

 
ROS: 
On neurological review of systems, reports vertical diplopia,
intermittent dizziness. The patient denies headache, confusion,
difficulties producing or comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait currently -reports Tandem
gait was a problem previously but improved with therapy. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  reports generalized arthralgias and myalgias, and
chronic low back pain. Denies rash. Reports that eyes feel very
stingy and dry.
 
 
Past Medical History:
PRE-DIABETES                                                  

HYPERTENSION                                                    

HYPERLIPIDEMIA                                                  

THYROID NODULE                                                  

IPMN   
 
Social History:
Marital status:     Single                                      
Children:           No                                          
Lives in:           House                                       
Tobacco use:        Never smoker                                
Alcohol use:        Past and Present                            
drinks per week:    rare                                        

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  ___ ESOPHAGUS                       
                      CORONARY ARTERY                           
                      DISEASE                                   
                      DEMENTIA                                  
                      PANCREATITIS                              

Father   ___ ___  MELANOMA                                  
                      STROKE                                    
                      DIABETES MELLITUS  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 

Vitals: Temp: 97.8, HR: 63, BP: 138/70, RR: 18, SpO2: 100% Ra 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. 
Has bilateral direction changing torsional nystagmus with
vertical diplopia in left>right end gaze. No RAPD, no INO
elicited.
With head impulse test, no corrective saccade, ___ neg,
Unterberger neg. 
VFF to confrontation -when asked to assess for finger wiggling
has difficulty with finger counting in all fields. Visual acuity
___ bilaterally. 

V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, temperature,  vibration, 
or
proprioception throughout. No extinction to DSS. Romberg absent.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3      3     2
R   3     3      3      3     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with hesitation but no clear
difficulty. 

DISCHARGE PHYSICAL EXAM

VITALS:
___ 1201 Temp: 98.3 PO BP: 114/73 HR: 63 RR: 18 O2 sat: 95%
O2 delivery: RA 
 General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. saccadic intrusions
in all planes but not on primary gaze. no nystagmus/flutter on
primary gaze. 
Has direction changing torsional nystagmus (down/left beating on
left gaze, down/right beating on right gaze, but in both, down
beat is more pronounced than lateral beat) also reports
vertical diplopia in left>right end gaze as well as upward gaze.
No RAPD, no INO elicited. VFF to confrontation -when asked to
assess for finger wiggling has difficulty with finger counting 
in
all fields. Visual acuity ___ bilaterally. right ptosis worse
than left (chronic)
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, temperature,  vibration, 
or
proprioception throughout. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3      3     2
R   3     3      3      3     2 
Plantar response was flexor bilaterally.
Pectoral jumps present bilaterally

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

 
Pertinent Results:
___ -  MRI B
Focus of T2/FLAIR hyperintensity in the pons, to the right of
midline. There 
is no associated restricted diffusion. This may represent an old
infarct or 
the sequelae of chronic microangiopathy. The differential
includes a 
demyelinating lesion. 

___ 09:50PM   GLUCOSE-87 UREA N-19 CREAT-0.8 SODIUM-134* 
POTASSIUM-4.3 CHLORIDE-97 TOTAL CO2-27 ANION GAP-10
___ 09:50PM   ALT(SGPT)-16 AST(SGOT)-19 LD(LDH)-167 
CK(CPK)-119
___ 09:50PM   TOT PROT-6.0* CALCIUM-9.2 PHOSPHATE-3.6 
MAGNESIUM-2.1
___ 09:50PM   CRP-2.1
___ 09:50PM   PEP-NO SPECIFI b2micro-2.1 IgG-739 IgA-158 
IgM-100 IFE-NO MONOCLO
___ 09:50PM   Trep Ab-NEG
___ 09:50PM   WBC-7.4 RBC-4.44 HGB-13.1 HCT-39.3 MCV-89 
MCH-29.5 MCHC-33.3 RDW-13.0 RDWSD-42.0
___ 09:50PM   PLT COUNT-239
___ 09:50PM   ___ PTT-31.9 ___
___ 02:23PM URINE  HOURS-RANDOM
___ 02:23PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:23PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:23PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*
___ 02:23PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 02:23PM URINE  MUCOUS-RARE*
___ 01:13PM   ___ PTT-29.2 ___
___ 11:20AM   GLUCOSE-111* UREA N-20 CREAT-0.7 SODIUM-133* 
POTASSIUM-4.8 CHLORIDE-96 TOTAL CO2-26 ANION GAP-11
___ 11:20AM   estGFR-Using this
___ 11:20AM   ALT(SGPT)-18 AST(SGOT)-22 ALK PHOS-79 TOT 
BILI-0.3
___ 11:20AM   cTropnT-<0.01
___ 11:20AM   ALBUMIN-4.5
___ 11:20AM   CRP-2.4
___ 11:20AM   CRP-2.4
___ 11:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:20AM   WBC-6.0 RBC-4.92 HGB-14.6 HCT-43.7 MCV-89 
MCH-29.7 MCHC-33.4 RDW-13.0 RDWSD-42.4
___ 11:20AM   NEUTS-69.2 ___ MONOS-7.2 EOS-2.8 
BASOS-0.7 IM ___ AbsNeut-4.15 AbsLymp-1.19* AbsMono-0.43 
AbsEos-0.17 AbsBaso-0.04
___ 11:20AM   PLT COUNT-289
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with a 
medical history notable for hypercholesterolemia, prediabetes,
hypertension, intraductal papillary mucinous neoplasm of the 
pancreas, and thyroid nodules who presented to the ED with
multiple years of intermittent vertical binocular diplopia which 
has worsened in the week before presentation. She was sent in by 
her ophthalmologist who noted direction changing nystagmus of 
unclear duration (she mentions someone looked at her eyes before 
cataract surgery but not sure if they checked eye movements), 
because she had an outpatient MRI ordered by her PCP which noted 
___ chronic pontine infarct. In the hospital she underwent 
MRI-Brain with and without contrast which was negative for any 
acute infarct. It re-demonstrated the previously seen chronic 
infarct in the pons, although this would not explain her 
abnormal eye movements. We considered a paraneoplastic etiology 
of her symptoms, and she underwent a CT torso with contrast 
which was negative for any malignancy. It did reveal a known 
ovarian cyst, a known pancreatic cyst which she follows with GI 
clinic for a yearly MRI and has been stable yearly, and a known 
thyroid cyst which she has had multiple ultrasounds and 
biopsies. She underwent Lumbar Puncture which revealed no 
pleocytosis and low/normal protein. Paraneoplastic panel is 
pending at the time of discharge. She was referred to 
Neuro-Ophthalmology as an outpatient for further workup.

# Vertical diplopia with direction changing (downbeat most 
prominent, with down/left beating on left gaze, and down/right 
beating on right gaze) nystagmus
- MRI-B negative for any acute stroke
- LP without pleocytosis, low/normal protein, paraneoplastic 
panel pending
- referral to Neuro-Ophthalmology

# Chronic pontine infarct - likely small vessel in etiology 
given location
- Increase atorvastatin from 10mg to 40mg given the finding of 
chronic infarct
- Initiated ASA 81 for secondary stroke prevention
- Recommend lifestyle intervention with strict BP control, heart 
healthy diet and exercise

# Malignancy workup
- paraneoplastic panel in CSF and serum pending

# Hypertension
- Lisinopril 10mg PO QD, HCTZ 12.5mg PO QD, Atenolol 25mg PO BID

# Hypercholesterolemia
- Atorvastatin increased to 40mg PO QHS for secondary stroke
prevention given pontine infarct and lipid panel

# pre-diabetes
- A1c 6.0%
- diabetic diet

Transitional Issues
- follow up in ___ clinic, follow up in General 
Neurology clinic
- results of serum/CSF paraneoplastic panels

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*6 
3.  Atenolol 25 mg PO BID  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vertical diplopia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of double vision and 
nystagmus. While you were hospitalized, we performed multiple 
imaging studies including MRI of the brain, which did not show 
any new stroke. It did show an old stroke in the Pons, a region 
in the brainstem, but this would not explain your visual 
symptoms, and it was likely a silent stroke. We also did a CT 
scan of the body looking for any evidence of cancer, but that 
was negative for any malignancy. We also performed a lumbar 
puncture, which did not show any inflammation in the fluid 
around your spine. We scheduled an outpatient follow up 
appointment with our Neuro-Ophthalmology team. 

We are changing your medications as follows:
Increase Atorvastatin to 40mg nightly

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911):
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure taking care of you!

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___